US05877317
1-(2-Chloroethyl)isochroman (LXIV)
Aluminum trichloride (17.44 g, 0.131 mol) is added, in aliquots over a period of 5-10 min, to an ice-cooled solution of [2-(3-chloro-1-ethoxypropoxy)ethyl]benzene (LXIII, PREPARATION 1, 28.87 g, 0.119 mol) in nitromethane (150 ml). After 30 min, hydrochloric acid (4N) is added and the mixture is partitioned between ether and saline. The organic phase, which contains nitromethane, is dried over magnesium sulfate and carefully concentrated under reduced pressure. The nitromethane/product mixture is then extracted six times with hexane and the hexane extracts are concentrated and chromatographed on silica gel eluting with ether/hexane (5/95). The appropriate fractions are pooled and concentrated to give the title compound, NMR (CDCl3) 2.23, 2.36, 2.71, 2.97, 3.68, 3.79, 4.10, 4.93 and 7.06-7.23 δ.

reactant | Aluminum trichloride | 0.131 mol, 17.44 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | [2-(3-chloro-1-ethoxypropoxy)ethyl]benzene | 0.119 mol, 28.87 g | ClCCC(OCCC1=CC=CC=C1)OCC | C13H19ClO2
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | nitromethane | 150 ml | [N+](=O)([O-])C | CH3NO2
product | 1-(2-Chloroethyl)isochroman | ClCCC1OCCC2=CC=CC=C12 | C11H13ClO
